US06916819B2
A mixture of 4-hydroxy-6-isopropyl-pyran-2-one (4.82 g, 31.3 mmol) in conc. NH4OH (15 mL) is stirred at 100° C. in a sealed tube for 4 h. The solution is then transferred to a recovery flask and concentrated in vacuo. Toluene is used to azeotropically remove any remaining water. 4-Hydroxy-6-isopropyl-1H-pyridin-2-one is obtained as a tan powder. 1H NMR (DMSO-d6, 300 MHz) δ 10.96 (br s, 1H), 10.36 (br s, 1H), 5.59 (d, J=2.1 Hz, 1H), 5.33 (d, J=2.1 Hz, 1H), 2.64 (sept, J=6.9 Hz, 1H), 1.11 (d, J=6.9 Hz, 6H) ppm.

reactant | 4-hydroxy-6-isopropyl-pyran-2-one | 31.3 mmol, 4.82 g | OC1=CC(OC(=C1)C(C)C)=O | C8H10O3
reactant | NH4OH | 15 mL | [NH4+].[OH-]
product | 4-Hydroxy-6-isopropyl-1H-pyridin-2-one | OC1=CC(NC(=C1)C(C)C)=O | C8H11NO2
